US04999436
3-Hydroxy-2-(2-methylphenyl)-5-phenylthiophene (537 mg, 2.02 mmol) was dissolved in acetonitrile (4.0 mL), and 4-dimethylaminopyridine (15 mg, 0.12 mmol) and triethylamine (0.65 mL, 470 mg, 6.9 mmol) were added followed by acetic anhydride (0.65 mL, 700 mg, 6.9 mmol). The reaction was stirred overnight at 25° C. The reaction mixture was evaporated and the residue was chromatographed on 30 g of silica gel eluting with 700 mL of 15% ethyl acetate in hexane. 3-Acetoxy-2-(2'-methylphenyl)-5-phenylthiophene was isolated as 370 mg of viscous oil. The product could be distilled bulb-to-bulb, bp (0.4 mm) 140°-150° C.

reactant | 3-Hydroxy-2-(2-methylphenyl)-5-phenylthiophene | 2.02 mmol, 537 mg | OC1=C(SC(=C1)C1=CC=CC=C1)C1=C(C=CC=C1)C | C17H14OS
reactant | triethylamine | 6.9 mmol, 0.65 mL, 470 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 6.9 mmol, 0.65 mL, 700 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 0.12 mmol, 15 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-Acetoxy-2-(2'-methylphenyl)-5-phenylthiophene | C(C)(=O)OC1=C(SC(=C1)C1=CC=CC=C1)C1=C(C=CC=C1)C | C19H16O2S
